US07166609B2
a) Methyl 6-(4-fluoro-3-methylbenzylcarbamoyl)pyrimdine-4-carboxylate
8.81 g (0.045 mol) of dimethyl pyrimidine-4,6-dicarboxylate were dissolved in 200 ml of DMF, after which 6.25 g (0.045 mol) of 4-fluoro-3-methylbenzylamine were added and the mixture was stirred at 60° C. for 48 hours (h). The solvent was removed in vacuo and the residue was taken up in ethyl acetate. The organic phase was washed with a saturated solution of sodium hydrogen carbonate and 0.5 N HCl and then dried (MgSO4). After filtering, and evaporating the solvent in vacuo, the residue was stirred up in isopropanol. This resulted in 8.75 g of product, which was subjected to further reaction without any further purification.

reactant | dimethyl pyrimidine-4,6-dicarboxylate | 0.045 mol, 8.81 g | N1=CN=C(C=C1C(=O)OC)C(=O)OC | C8H8N2O4
reactant | 4-fluoro-3-methylbenzylamine | 0.045 mol, 6.25 g | FC1=C(C=C(CN)C=C1)C | C8H10FN
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | Methyl 6-(4-fluoro-3-methylbenzylcarbamoyl)pyrimdine-4-carboxylate | 8.75 g | FC1=C(C=C(CNC(=O)C2=CC(=NC=N2)C(=O)OC)C=C1)C | C15H14FN3O3
